US07253286B2
4-(4-(3-Cyclopropylureido)-3-fluorophenoxy)-7-methoxyquinoline-6-carboxylic acid methyl ester
Phenyl N-(2-fluoro-4-(7-methoxy-6-methoxycarbonyl-4-quinolyl)oxyphenyl)carbamate (0.9 g) was treated with cyclopropylamine in dimethylsulfoxide at room temperature in the same manner as Example 11, to obtain the title compound (0.5 g) as a solid.

reactant | Phenyl N-(2-fluoro-4-(7-methoxy-6-methoxycarbonyl-4-quinolyl)oxyphenyl)carbamate | 0.9 g | FC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)C(=O)OC)OC)NC(OC1=CC=CC=C1)=O | C25H19FN2O6
reactant | cyclopropylamine | C1(CC1)N | C3H7N
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 4-(4-(3-Cyclopropylureido)-3-fluorophenoxy)-7-methoxyquinoline-6-carboxylic acid methyl ester | 0.5 g | COC(=O)C=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC1CC1)F | C22H20FN3O5
